US08609644B2
7α-Formamidoandrostane-3,17-dione (II-bu)
The title compound II-bu was prepared in 97% yield from 3,3:17,17-bis(ethylendioxy)-7α-formamidoandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The crude product was purified by flash chromatography (SiO2, n-hexane/acetone 70/30). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS: δ 8.18 (dd, 1H), 7.97 (d, 1H), 4.13 (m, 1H), 2.90-0.95 (m, 20H), 1.00 (s, 3H), 0.79 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-7α-formamidoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1[C@@H](CC3CCCC[C@]3(C)[C@H]1CC4)NC=O | C24H37NO5
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 7α-Formamidoandrostane-3,17-dione | 97% yield | C(=O)N[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C20H29NO3
